US06605629B1
To a mixture of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol (500 mg), 3-methoxyphenol (390 mg), tributylphosphine (640 mg) and tetrahydrofuran (20 ml) was added dropwise a toluene solution of diethyl azodicarboxylate (40%, 1.37 g) at room temperature, and the resulting mixture was stirred for 3 hours. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-5-[3-(3-methoxylphenoxy)propyl]-2-(2-methyl-1-imidazolyl)oxazole (470 mg, 70%) was obtained as an oil from an ethyl acetate-hexane (2:3, v/v)-eluted fraction.

reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol | 500 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCCO)N1C(=NC=C1)C | C16H16ClN3O2
reactant | 3-methoxyphenol | 390 mg | COC=1C=C(C=CC1)O | C7H8O2
reactant | tributylphosphine | 640 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diethyl azodicarboxylate | 1.37 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-5-[3-(3-methoxylphenoxy)propyl]-2-(2-methyl-1-imidazolyl)oxazole | 470 mg, 70% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=CC(=CC=C1)OC)N1C(=NC=C1)C | C23H22ClN3O3
